US05698579
To a solution of methyl 3-(4-nitrophthalimido)-3-(3-ethoxy-4-methoxyphenyl)propionate (2.3 g, 5.4 mmol) in 25 mL of ethyl acetate was added 0.25 g of 10% palladium on carbon catalyst. The mixture was hydrogenated in a Parr-Shaker apparatus at 55-60 psi of hydrogen overnight. The reaction mixture was filtered through celite and the filtrate was concentrated in vacuo to afford a yellow solid. The crude product was purified by flash column chromatography (silica gel, 20% ethyl acetate/methylene chloride). The resulting solid was dried in vacuo (60° C., <1 mm) to afford 1.98 g (93%) of methyl 3-(4-aminophthalimido)-3-(3-ethoxy-4-methoxyphenyl)propionate as a yellow solid: mp 65°-67° C.; 1H NMR (CDCl3) δ7.56-7.48 (m, 1H); 7.15-6.93 (m, 3H), 6.85-6.71 (m, 2H), 5.70 (dd, J=6.1, 9.7 Hz, 1H), 4.35 (br s, 2H), 4.09 (q, J=7 Hz, 2H), 3.83 (s, 3H), 3.72 (dd, J=9.7, 16.4 Hz, 1H), 3.62 (s, 3H), 3.23 (dd, J=6.1, 16.4 Hz, 1H), 1.44 (t, J=7 Hz, 3H); 13C NMR (CDCl3) δ171.2, 168.3, 168.2, 152.3, 148.9, 148.1, 134.6, 131.4, 125.1, 120.3, 120.2, 117.9, 112.6, 111.2, 108.4, 64.3, 55.9, 51.8, 50.4, 38.1, 14.7; HPLC (Waters Radial-Pak Phenyl column, 1.8×100 mm, 1 mL/min, 240 nm, 55/45, acetonitrile/0.1% aqueous phosphoric acid) 3.5 min, 100%; Anal. Calcd. for C21H22N2O6.0.29 H2O. Theoretical: C, 62.49,H, 5.63, N, 6.94. Found: C, 62.53; H, 5.62; N, 6.78.

reactant | methyl 3-(4-nitrophthalimido)-3-(3-ethoxy-4-methoxyphenyl)propionate | 5.4 mmol, 2.3 g | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)C(CC(=O)OC)C2=CC(=C(C=C2)OC)OCC)=CC1 | C21H20N2O8
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
product | methyl 3-(4-aminophthalimido)-3-(3-ethoxy-4-methoxyphenyl)propionate | 1.98 g, 93% | NC=1C=C2C(C(=O)N(C2=O)C(CC(=O)OC)C2=CC(=C(C=C2)OC)OCC)=CC1 | C21H22N2O6
